US08012966B2
2-(5-Chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 112 with 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-chloro-1,3-dihydro-indol-2-one as starting materials to give 2-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (40 mg, 65.5%) as a yellow solid.

reactant | 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CN(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)C | C13H19N3O2
reactant | 5-chloro-1,3-dihydro-indol-2-one | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 2-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 40 mg, 65.5% | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(N(CCC2N1)CCN(C)C)=O)C | C21H23ClN4O2
